US06566367B2
Add spiro[isobenzofuran-1,4′-piperidin]-3-one (100 mg, 0.49 mmol) to 1 mL of the stock solution of (1,4-dioxa-spiro[4.5]dec-8-yl)-carbamoyl chloride (˜0.2 M in toluene) and heat to 60° C. for 16 hours. Cool the solution, dilute with EtOAc and wash with brine. Dry the solution (Na2SO4) and concentrate under reduced pressure. Purify the crude product using preparative plate chromatography and triturate the resulting material with ether to obtain 1′-(1,4-dioxa-spiro[4.5]dec-8-yl-carbamoyl)-spiro[isobenzofuran-1,4′-piperidin]-3-one as a white solid.

reactant | spiro[isobenzofuran-1,4′-piperidin]-3-one | 0.49 mmol, 100 mg | N1CCC2(CC1)OC(C1=CC=CC=C12)=O | C12H13NO2
reactant | (1,4-dioxa-spiro[4.5]dec-8-yl)-carbamoyl chloride | ˜0.2 M | O1CCOC12CCC(CC2)NC(=O)Cl | C9H14ClNO3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1′-(1,4-dioxa-spiro[4.5]dec-8-yl-carbamoyl)-spiro[isobenzofuran-1,4′-piperidin]-3-one | O1CCOC12CCC(CC2)NC(=O)N2CCC1(CC2)OC(C2=CC=CC=C21)=O | C21H26N2O5
